US07737279B2
A450.5: N-[2-[6-[1,6-dihydro-1-methyl-4-(methylamino)imidazo[4,5-d]pyrrolo[2,3-b]pyridin-7-yl]-2-pyridinyl]ethyl]-acetamide
A450.4 (147 mg, 0.30 mmol), was dissolved in DMA (5 mL) and the solution heated to 77° C. One equivalent of 1.0M potassium t-butoxide in THF (0.3 ml, 0.30 mmol) was quickly added and the reaction heated at 70° C. for thirty minutes. A second equivalent of 1.0M potassium t-butoxide in THF (0.3 ml, 0.30 mmol) was quickly added and the reaction mixture stirred an additional thirty minutes. The reaction mixture was concentrated in vacuo. The crude product residue was purified by Silica Gel (230-400 Mesh) chromatography eluting with 2-5% MeOH/CH2Cl2 to give the Boc-protected intermediate, tert-butyl-7-(6-(2-acetamidoethyl)pyridin-2-yl)-1-methyl-1,6-dihydroimidazo[4,5-d]pyrrolo[2,3-b]pyridine-4-yl(methyl)carbamate as an off-white solid. (76 mg, 52% yield). The solid was dissolved in methylene chloride (0.5 mL) and trifluoroacetic acid (0.5 mL) was added and the reaction mixture stirred for 0.25 h. The solvent was evaporated under reduced pressure to provide A450 (37 mg, 63%). M+H+=364.26. 1H NMP (400 MHz) MEOD δ 8.14 (s, 1H), 7.84 (m, 2H), 7.52 (s, 1H), 7.30 (m, 1H), 4.18 (s, 3H), 3.77 (m, 2H), 3.29 (s, 3H), 3.11 (m, 2H), 1.94 (s, 3H).

reactant | tert-butyl-7-(6-(2-acetamidoethyl)pyridin-2-yl)-1-methyl-1,6-dihydroimidazo[4,5-d]pyrrolo[2,3-b]pyridine-4-yl(methyl)carbamate | C(C)(C)(C)OC(N(C)C1=C2C(=C3C(=N1)NC(=C3)C3=NC(=CC=C3)CCNC(C)=O)N(C=N2)C)=O | C24H29N7O3
reactant | trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | NMP | CN1CCCC1=O | C5H9NO
solvent | methylene chloride | 0.5 mL | C(Cl)Cl | CH2Cl2
product | N-[2-[6-[1,6-dihydro-1-methyl-4-(methylamino)imidazo[4,5-d]pyrrolo[2,3-b]pyridin-7-yl]-2-pyridinyl]ethyl]-acetamide | CN1C=NC=2C1=C1C(=NC2NC)NC(=C1)C1=CC=CC(=N1)CCNC(C)=O | C19H21N7O
